US07238757B2
150 ml (39 mmol) of (2-methoxybenzyl)magnesium chloride as 0.26 molar solution are added dropwise over the course of 3 hours at 0° C. to 6.83 g (38.7 mmol) of iBu2AlCl in 250 ml of tetrahydrofuran. The mixture is slowly brought to room temperature and stirred at room temperature for 18 h. The solvent is removed under reduced pressure (0.05 mbar), and the residue is suspended in 125 ml of n-pentane. The mixture is subsequently filtered through a D4 frit. After removal of the n-pentane, fractional distillation gives (2-methoxybenzyl)diisobutylaluminium as colourless, viscous liquid having a boiling point of 85° C. at 0.05 mbar.

reactant | (2-methoxybenzyl)magnesium chloride | 39 mmol, 150 ml | COC1=C(C[Mg]Cl)C=CC=C1
reactant | iBu2AlCl | 38.7 mmol | [Al](CC(C)C)(CC(C)C)Cl
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | (2-methoxybenzyl)diisobutylaluminium | COC1=C(C[Al](CC(C)C)CC(C)C)C=CC=C1 | InChI=1S/C8H9O.2C4H9.Al/c1-7-5-3-4-6-8(7)9-2;2*1-4(2)3;/h3-6H,1H2,2H3;2*4H,1H2,2-3H3;
